US06960591B2
Triphenylpyridin-3-ylmethylphosphonium chloride (1.95 g) was added into an ice-cooled DMF suspension (40 ml) containing sodium hydride (60% in oil) (0.26 g), followed by 30 minutes of stirring at room temperature. The reaction solution was cooled to 0° C. and 4-chloro-3-nitrobenzaldehyde (1.04 g) was added portionwise thereto, followed by 2 hours of stirring at room temperature. To the residue formed by evaporating the reaction solution under reduced pressure was poured an appropriate amount of purified water, followed by extraction with ethyl acetate. Thereafter, the organic layer was dried over anhydrous magnesium sulfate. The crude product obtained by solvent evaporation was purified by silica gel column chromatography to obtain 3-[2-(4-chloro-3-nitrophenyl)vinyl]pyridine (0.86 g) from the fractions eluted with ethyl acetate-hexane (2:1 (v/v)).

reactant | Triphenylpyridin-3-ylmethylphosphonium chloride | 1.95 g | [Cl-].C1(=CC=CC=C1)[P+](CC=1C=NC=CC1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | 4-chloro-3-nitrobenzaldehyde | 1.04 g | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 3-[2-(4-chloro-3-nitrophenyl)vinyl]pyridine | 0.86 g | ClC1=C(C=C(C=C1)C=CC=1C=NC=CC1)[N+](=O)[O-] | C13H9ClN2O2
